US08232284B2
Preparation of 6-({3-chloro-5-[2-(dimethylamino)ethoxy]pyridin-2-yl}oxy)-N-(5-methylpyrazin-2-yl)quinazoline-4-amine
Using 4-[(5-methylpyrazin-2-yl)amino]quinazolin-6-ol, 3-chloro-5-(2,2-diethoxyethoxy)-2-fluoropyridine and 2 M dimethylamine/tetrahydrofuran solution, and in the same manner as in Example 32 or according to a method similar to it or according to a combination thereof with an ordinary method, the entitled compound (14 mg) was obtained as a pale yellow amorphous solid.

reactant | 4-[(5-methylpyrazin-2-yl)amino]quinazolin-6-ol | CC=1N=CC(=NC1)NC1=NC=NC2=CC=C(C=C12)O | C13H11N5O
reactant | 3-chloro-5-(2,2-diethoxyethoxy)-2-fluoropyridine | ClC=1C(=NC=C(C1)OCC(OCC)OCC)F | C11H15ClFNO3
reactant | dimethylamine tetrahydrofuran | 2 M | CNC.O1CCCC1
product | 6-({3-chloro-5-[2-(dimethylamino)ethoxy]pyridin-2-yl}oxy)-N-(5-methylpyrazin-2-yl)quinazoline-4-amine | 14 mg | ClC=1C(=NC=C(C1)OCCN(C)C)OC=1C=C2C(=NC=NC2=CC1)NC1=NC=C(N=C1)C | C22H22ClN7O2
